US08008334B2
d) 8-(4-Methoxyphenyl)-7,7-dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-ol
A solution of 7.90 mmol of 7,7-dimethyl-6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one in 50 ml of tetrahydrofuran is admixed at 0-5° C. with 15.8 mmol of 4-methoxyphenylmagnesium bromide (0.5M solution in tetrahydrofuran). The reaction solution is subsequently stirred at 0° C. for 1 hour and then at room temperature for 16 hours. The reaction solution is hydrolysed with 0.5N HCl and extracted with tert-butyl methyl ether. The aqueous phase is rendered basic with saturated aqueous sodium hydrogen carbonate solution and the precipitated solid is isolated by filtration and dried. The title compound is obtained as a grey solid and used without further-purification for the next stage. Rt=5.42 (Gradient I).

reactant | 7,7-dimethyl-6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one | 7.90 mmol | CC1(C(C=2N(CC1)C=NC2)=O)C | C9H12N2O
reactant | 4-methoxyphenylmagnesium bromide | 15.8 mmol, 0.5M | COC1=CC=C(C=C1)[Mg]Br
reactant | HCl | 0.5N | Cl | ClH
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-(4-Methoxyphenyl)-7,7-dimethyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-ol | COC1=CC=C(C=C1)C1C=2N(CCC1(C)C)C=NC2O | C16H20N2O2
